US08492388B2
To a stirred solution of 3-(chloromethyl)benzoate (25.5 g, 138.1 mmol) in methanol (150 mL) at room temperature was added potassium carbonate (95.4 g, 691 mmol). The resulting suspension mixture was stirred 24 h at room temperature, then 4 h at 50° C. After cooling down to room temperature, the insolubles were filtered off, the filtrate concentrated in vacuo and diluted with dichloromethane (500 mL), and extracted with water (250 mL). The aqueous phase was acidified with aq. HCl (1 M) to pH=4 and extracted with dichloromethane (3×300 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo to afford 3-(methoxymethyl)benzoic acid as a colourless solid [20.9 g, yield 91%; HPLC/MS:m/z=165 (M−H); log P(HCOOH)=1.33].

reactant | 3-(chloromethyl)benzoate | 138.1 mmol, 25.5 g | ClCC=1C=C(C(=O)[O-])C=CC1
reactant | potassium carbonate | 691 mmol, 95.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 150 mL | CO | CH4O
product | 3-(methoxymethyl)benzoic acid | yield 91% | COCC=1C=C(C(=O)O)C=CC1 | C9H10O3
